US04049812
To a solution of 3.0 g. of ethyl 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate in 40 ml. of ethanol is added 9 ml. of 1N-sodium hydroxide solution with stirring at room temperature. After strirring for 20 minutes, the solvent is evaporated by distillation, and neutralized with 9 ml. of 1N-hydrochloric acid. The precipitated crystals are collected by filtration, washed successively with water, ethanol and ether and then dried to give 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid as crystals. Recrystallization from ethanol gives colorless prisms, melting at 204° to 206° C. (decomposition).

reactant | ethyl 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N1N=C(N=C1CCl)C(=O)OCC | C18H15ClN4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(2-pyridinecarbonyl)phenyl]-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | N1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)N1N=C(N=C1CCl)C(=O)O | C16H11ClN4O3
